US07790895B2
4-(5-Formyl-2-methoxy-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester (30 mg, 0.074 mmol) was dissolved in ethanol (1 mL) and treated with sodium borohydride (26 mg) in one portion. After stirring at room temperature for 15 min, the reaction mixture was quenched with an aqueous solution of ammonium chloride. The reaction mixture was then extracted with ethyl acetate and the organic layer was dried over sodium sulfate, concentrated. The crude compound was purified by column chromatography eluted with 30% ethyl acetate to yield 4-(5-hydroxymethyl-2-methoxy-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester as a white solid.

reactant | 4-(5-Formyl-2-methoxy-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | 0.074 mmol, 30 mg | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1C1=C(C=CC(=C1)C=O)OC)C(F)(F)F | C21H16F3NO4
reactant | sodium borohydride | 26 mg | [BH4-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(5-hydroxymethyl-2-methoxy-phenyl)-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1C1=C(C=CC(=C1)CO)OC)C(F)(F)F | C21H18F3NO4
